US07915267B2
6-cyano-4-oxo-N-[(3-{[3-(1H-1,2,4-triazol-3-yl)propanoyl]amino}phenyl)methyl]-3,4-dihydroquinazoline-2-carboxamide
A solution of 6-cyano-4-oxo-N-{[3-({3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propanoyl}amino)phenyl]methyl}-3,4-dihydroquinazoline-2-carboxamide (215 mg, 0.314 mmol), triethylsilane (0.053 mL, 0.330 mmol) and trifluoroacetic acid (2 mL) in dichloromethane (3 mL) was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure, and the residue was crystallized from IPE. The resulting powder was recrystallized from ethanol to give is the title compound as a white powder (98.6 mg, 71%).

reactant | 6-cyano-4-oxo-N-{[3-({3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propanoyl}amino)phenyl]methyl}-3,4-dihydroquinazoline-2-carboxamide | 0.314 mmol, 215 mg | C(#N)C=1C=C2C(NC(=NC2=CC1)C(=O)NCC1=CC(=CC=C1)NC(CCC1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C41H32N8O3
reactant | triethylsilane | 0.330 mmol, 0.053 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 6-cyano-4-oxo-N-[(3-{[3-(1H-1,2,4-triazol-3-yl)propanoyl]amino}phenyl)methyl]-3,4-dihydroquinazoline-2-carboxamide | 98.6 mg, 71% | C(#N)C=1C=C2C(NC(=NC2=CC1)C(=O)NCC1=CC(=CC=C1)NC(CCC1=NNC=N1)=O)=O | C22H18N8O3
